US07119114B1
Due to limited solubility of Compound 1, purification of the same may be achieved by first derivatizing Compound 1 to a more soluble intermediate, such as the corresponding acetate, recrystallizing the intermediate, and then converting the intermediate to yield purified Compound 1 in good yield. More specifically, to solution of the pyrazoloanthrone (9.67 g, 43.9 mmol) in acetic acid (700 mL) is added acetic anhydride (12.4 mL, 132 mmol). The solution is heated to 80° C. for 5 hours and then cooled to room temperature. After 16 hours, the reaction is cooled to 0° C. for 2 hours. The reaction is then filtered to give the N-acetylpyrazoloanthrone intermediate. This intermediate is recrystallized in acetic acid to give the pure intermediate (5.96 g, 52%). 1H NMR (CDCL3) δ 10.6 (br s, 1H), 8.46 (d, 1H), 8.33 (d, 1H), 8.26 (d, 1H), 8.08 (d, 1H), 7.96–7.87 (m, 2H), 7.78 (t, 1H), 2.83 (s, 3H); ES-MS (m/z) 263 [M+1]+. To a solution of the pure intermediate (5.96 g, 23 mmol) in methanol (600 mL) is added ammonium hydroxide (60 mL). The reaction is stirred at room temperature for 16 hours and then filtered and dried in a vacuum oven. A second crop of crystals is recovered to give a total of 4.8 g of Compound 1 at greater than 98% purity. ES-MS (m/z) 221 [M+1]+.

reactant | pyrazoloanthrone | 43.9 mmol, 9.67 g | C1=NN=C2C=CC3=CC4=CCC(CC4=CC3=C21)=O | C15H10N2O
reactant | acetic anhydride | 132 mmol, 12.4 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 700 mL | C(C)(=O)O | C2H4O2
product | N-acetylpyrazoloanthrone | C(C)(=O)N1N=C2C=CC=3C=C4C=CC(CC4=CC3C2=C1)=O | C17H12N2O2
